US06316637B1
To a solution of 5-aminobenzimidazole (1.0 g, 7.5 mmol) in 20 ml of AcOH was added Cl2 saturated AcOH solution until it produced a precipitation. The reaction mixture was concentrated in vacuo, yielding a dark residue which was subjected to column chromatography (NH3 sat'd 30% MeOH/EtOAc) to yield 120 mg (0.72 mmol) of 4-chloro-5-aminobenzimidazole.

reactant | 5-aminobenzimidazole | 7.5 mmol, 1.0 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | Cl2 | ClCl | Cl2
reactant | NH3 | N | H3N
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 4-chloro-5-aminobenzimidazole | 0.72 mmol, 120 mg | ClC1=C(C=CC=2N=CNC21)N | C7H6ClN3
